US04871730
To a suspension of [(Z and E)-2-(2-pyridyl)vinylthio]silver (2.26 g) in acetonitrile (140 ml) was added sodium iodide (8.18 g) under ice-cooling. The mixture was stirred at the same temperature for 30 minutes. To this mixture was added benzhydryl 7-formamido-3-mesyloxy-3-cephem-4-carboxylate (4 g) at once at the same temperature. The mixture was stirred under ice-cooling for 30 minutes. The insoluble material was filtered off. The filtrate was concentrated in vacuo to give a residue. The residue was dissolved in a mixture of ethyl acetate and a saturated aqueous solution of sodium chloride. The mixture was stirred for 1 hour. Sellaite was added to the mixture. The insoluble material was filtered off. The separated organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo to give a solid. The solid was subjected to column chromatography on silica gel (175 g) and eluted with a mixture of chloroform and ethyl acetate (4:1 v/v). The fractions containing the material having a larger Rf value in thin layer chromatography were combined and concentrated in vacuo to give benzhydryl 7-formamido-3-[(Z)-2-(2-pyridyl)vinylthio]-3-cephem-4-carboxylate (2.15 g) as a solid.

reactant | sodium iodide | 8.18 g | [I-].[Na+]
reactant | benzhydryl 7-formamido-3-mesyloxy-3-cephem-4-carboxylate | 4 g | C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O7S2
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
catalyst | silver | 2.26 g | [Ag] | Ag
product | benzhydryl 7-formamido-3-[(Z)-2-(2-pyridyl)vinylthio]-3-cephem-4-carboxylate | 2.15 g | C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23N3O4S2
